US07125901B2
Di-tert-butyl {[(4-{2-[2-(acetylamino)-5-bromo-1,3-thiazol-4-yl]ethyl}phenyl)amino]methylidene}biscarbamate (113 mg) and 4N hydrochloric acid in 1,4-dioxane solution (2 ml) were combined under nitrogen atmosphere. The reaction mixture was stirred at room temperature for 24 hours. The solvent was removed in vacuo. The residue was washed with ethyl acetate to give N-{4-[2-(4-{[amino(imino)methyl]amino}phenyl)ethyl]-5-bromo-1,3-thiazol-2-yl}acetamide hydrochloride (16.8 mg) as a pale yellow amorphous solid.

reactant | Di-tert-butyl {[(4-{2-[2-(acetylamino)-5-bromo-1,3-thiazol-4-yl]ethyl}phenyl)amino]methylidene}biscarbamate | 113 mg | C(C)(=O)NC=1SC(=C(N1)CCC1=CC=C(C=C1)NC(NC(OC(C)(C)C)=O)NC(OC(C)(C)C)=O)Br | C24H34BrN5O5S
reactant | hydrochloric acid | 4N | Cl | ClH
solvent | 1,4-dioxane | 2 ml | O1CCOCC1 | C4H8O2
product | N-{4-[2-(4-{[amino(imino)methyl]amino}phenyl)ethyl]-5-bromo-1,3-thiazol-2-yl}acetamide hydrochloride | 16.8 mg | Cl.NC(=N)NC1=CC=C(C=C1)CCC=1N=C(SC1Br)NC(C)=O | InChI=1S/C14H16BrN5OS.ClH/c1-8(21)18-14-20-11(12(15)22-14)7-4-9-2-5-10(6-3-9)19-13(16)17;/h2-3,5-6H,4,7H2,1H3,(H4,16,17,19)(H,18,20,21);1H
